Band Pass Filter
* Cutoff frequencies are  60 Hz and 65 KHz
R1 2 0 1326
* resistance is 1326 ohm
R2 2 3 816
* resistance is 816 ohm
C1 1 2 2u
* capacitance is 2uF
C2 3 0 3n
* capacitance is 3nF
Vin 1 0 dc 0 ac 1
*Comment
.control
*Comment
ac dec 10 1 1Meg
* to verify cutoff frequency using plot we need to check y-value -3db and x-value there is our cutoff frequency
set color0 = white
set color1 = black
set color2 = blue
*Comment
plot vdb(3) 
.endc