High Pass Filter
* Cutoff frequency is 60 Hz
R2 2 0 1326
* resistance is 1326
C2 1 2 2u
* capacitance is 2uF
Vin 1 0 dc 0 ac 1
*Comment
.control
*Comment
ac dec 10 1 1Meg
* to verify cutoff frequency using plot we need to check y-value -3db and x-value there is our cutoff frequency
set color0 = white
set color1 = black
set color2 = blue
*Comment
plot vdb(2) 
.endc