Low Pass Filter
* Cutoff frequency is  65 KHz
R1 1 2 816
* resistance is 816 ohm
C1 2 0 3n
* capacitance is 3nF
Vin 1 0 dc 0 ac 1
*Comment
.control
*Comment
ac dec 10 1 1Meg
*Comment
set color0 = white
set color1 = black
set color2 = blue
*Comment
plot vdb(2) 
.endc